US07799822B2
Synthesized according to general procedure 70. Under an N2 atmosphere, a mixture of 3-methyl-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (7.5 g, 24.9 mmol) and 2-aminothiazole (2.49 g, 24.9 mmol), and pyridine (15 mL) was stirred at RT for 19 h. Purification via silica gel chromatography using 0-10% MeOH in CH2Cl2 gave 2,2,2-trifluoro-N-(2-methyl-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide (6.87 g, 76%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=366.1; tR=1.13 min.

reactant | 3-methyl-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 24.9 mmol, 7.5 g | CC=1C=C(C=CC1NC(C(F)(F)F)=O)S(=O)(=O)Cl | C9H7ClF3NO3S
reactant | 2-aminothiazole | 24.9 mmol, 2.49 g | NC=1SC=CN1 | C3H4N2S
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | 2,2,2-trifluoro-N-(2-methyl-4-(N-thiazol-2-ylsulfamoyl)phenyl)acetamide | 6.87 g, 76% | FC(C(=O)NC1=C(C=C(C=C1)S(NC=1SC=CN1)(=O)=O)C)(F)F | C12H10F3N3O3S2
